US09108926B2
1-[(Cyclopropylsulfonyl)methyl]-3-nitrobenzene
Sodium cyclopropanesulfinate (1.04 g; 8.1 mmol) was added to a solution of 1-(bromomethyl)-3-nitrobenzene (1.17 g; 5.4 mmol) in acetonitrile (50 mL) at room temperature. The batch was stirred at 90° C. for 4 hours. After cooling, the batch was diluted with water and extracted with DCM (2×). The combined organic phases were filtered using a Whatman filter and concentrated to give the desired product (1.26 g; 5.2 mmol) that was used without further purifications.

reactant | Sodium cyclopropanesulfinate | 8.1 mmol, 1.04 g | C1(CC1)S(=O)[O-].[Na+]
reactant | 1-(bromomethyl)-3-nitrobenzene | 5.4 mmol, 1.17 g | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-[(Cyclopropylsulfonyl)methyl]-3-nitrobenzene | 5.2 mmol, 1.26 g | C1(CC1)S(=O)(=O)CC1=CC(=CC=C1)[N+](=O)[O-] | C10H11NO4S
